US06759554B2
2-Methoxybenzyl Alcohol
A test tube was charged with CuI (20 mg, 0.10 mmol, 10 mol %), 1,10-phenanthroline (36 mg, 0.20 mmol, 20 mol %), Cs2CO3 (456 mg, 1.4 mmol), 2-iodobenzylalcohol (234 mg, 1.0 mmol) and methanol (1.0 mL). The test tube was sealed and the reaction mixture was stirred at 80° C. for 24 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with diethyl ether. The filtrate was concentrated. Purification of the residue by flash chromatography on silica gel (2×20 cm; pentane/diethyl ether 2:1) provided 122 mg (88% yield) of the title compound as a colorless oil.

reactant | 1,10-phenanthroline | 0.20 mmol, 36 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cs2CO3 | 1.4 mmol, 456 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-iodobenzylalcohol | 1.0 mmol, 234 mg | IC1=C(CO)C=CC=C1 | C7H7IO
catalyst | CuI | 0.10 mmol, 20 mg | [Cu]I
solvent | methanol | 1.0 mL | CO | CH4O
product | 2-Methoxybenzyl Alcohol | 122 mg, 88% yield | COC1=C(CO)C=CC=C1 | C8H10O2
